US07968746B2
Oxidation as described in protocol B, using 100 mg (0.346 mmol) of N-cyclopropyl-6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxamide and 417 mg CAN (0.762 mmol) yielded 40 mg of N-cyclopropyl-2-hydroxy-2-methyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide as a yellow oil.

reactant | N-cyclopropyl-6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxamide | 0.346 mmol, 100 mg | C1(CC1)NC(=O)C1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)C | C17H23NO3
reactant | CAN | 0.762 mmol, 417 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
product | N-cyclopropyl-2-hydroxy-2-methyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide | 40 mg | C1(CC1)NC(C(CCC1=C(C(C(=C(C1=O)C)C)=O)C)(C)O)=O | C17H23NO4
